US07776897B2
2-(Trifluoromethyl)benzoyl chloride and methylamine (2M, THF solution) were reacted in chloroform at room temperature to obtain N-methyl-2-(trifluoromethyl)benzamide.

reactant | 2-(Trifluoromethyl)benzoyl chloride | FC(C1=C(C(=O)Cl)C=CC=C1)(F)F | C8H4ClF3O
reactant | methylamine | 2M | CN | CH5N
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | N-methyl-2-(trifluoromethyl)benzamide | CNC(C1=C(C=CC=C1)C(F)(F)F)=O | C9H8F3NO
